US09388189B2
(S)-1-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-methoxyphenyl)urea
(S)-2-(1-((6-Amino-5-(3-amino-5-methoxyphenyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (87 mg, 0.18 mmol) was suspended in a mixture of water (1.5 ml) and acetic acid (1.5 ml) and cooled in an ice bath to 0° C. This mixture was treated with a solution of potassium isocyanate (29 mg, 0.36 mmol) in water (0.5 ml). The reaction mixture was stirred at 0° C. for 1 h and then led to warm to room temperature. The crude was diluted with ethyl acetate and washed with saturated ammonium chloride solution and brine. After evaporation of the solvent, the residue was purified by flash chromatography (50 to 100%, hexane-ethyl acetate) using SP1® Purification System to give 54 mg (57% yield) of the title compound as a solid. Purity 99%.

reactant | (S)-2-(1-((6-Amino-5-(3-amino-5-methoxyphenyl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.18 mmol, 87 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)C2=CC(=CC(=C2)OC)N | C26H26N8O2
reactant | potassium isocyanate | 0.36 mmol, 29 mg | [N-]=C=O.[K+]
solvent | water | 1.5 ml | O | H2O
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
solvent | water | 0.5 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-methoxyphenyl)urea | 54 mg, 57% yield | NC1=NC=NC(=C1C=1C=C(C=C(C1)OC)NC(=O)N)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C27H27N9O3
